US04544750
2,3,5-trimethyl-pyridine-N-oxide (1457 g, 10 moles) was dissolved in conc. H2SO4 (1200 ml, 22.08 moles) in a 50 liters reaction vessel. A nitration solution (1750 ml, 32.2 moles conc. H2SO4 and 2065 ml, 29.84 moles 65% HNO3) was added at 90° C. during 1 hour. The solution was stirred at 90° for 1.5 hours and thereafter cooled to 30° C. The pH of the reaction mixture was then adjusted by adding 10M NaOH (11.65 liters, 116.5 moles) during cooling with water so that the temperature was kept below 40° C. The NaOH was added during about 2 hours. Thereafter CH2Cl2 (25 liters) was added and the mixture stirred vigorously for 30 minutes. The phases formed were separated and the CH2Cl2 -phase was transferred to a 100 liters reaction vessel. The water phase was discarded. The methylenechloride was distilled off. To the remainder was added 15 l of toluene which was then distilled off under reduced pressure, followed by another 15 l portion of toluene which was also removed by distillation. 8 liters of methanol was added and the mixture heated to boiling temperature. A solution of NaOH (595 g, 14.9 moles) in CH3OH (16 liters) was added during about 1.5 hours. The reaction mixture obtained was cooled and its pH adjusted to 8 using conc. H2SO4 (250 ml, 4.6 moles). Remaining methanol was distilled off and CH2Cl2 (20 liters) was added to the remainder. The mixture was stirred for about 30 minutes and inorganic salts were filtered off and washed with CH2Cl2. The filtrates obtained were pooled and evaporated, yielding 1287 g of 2,3,5-trimethyl-4-methoxy-pyridine-N-oxide with a purity of 89%. The identity of the reaction product was confirmed with 1H and 13C NMR. 1H-NMR: δ(COCl3) 2.22(s,3H),2.27(s,3H),2.51(s,3H),3.81(s,3H),8.18(s,1H).

reactant | 2,3,5-trimethyl-pyridine-N-oxide | 10 moles, 1457 g | CC1=[N+](C=C(C=C1C)C)[O-] | C8H11NO
reactant | H2SO4 | 22.08 moles, 1200 ml | OS(=O)(=O)O | H2O4S
reactant | H2SO4 | 32.2 moles, 1750 ml | OS(=O)(=O)O | H2O4S
reactant | HNO3 | 29.84 moles, 2065 ml | [N+](=O)(O)[O-] | HNO3
reactant | NaOH | 116.5 moles, 10M, 11.65 liters | [OH-].[Na+]
reactant | NaOH | 14.9 moles, 595 g | [OH-].[Na+]
reactant | H2SO4 | 4.6 moles, 250 ml | OS(=O)(=O)O | H2O4S
reactant | CH3OH | 16 liters | CO | CH4O
solvent | water | O | H2O
solvent | CH2Cl2 | 25 liters | C(Cl)Cl | CH2Cl2
product | 2,3,5-trimethyl-4-methoxy-pyridine-N-oxide | 1287 g | CC1=[N+](C=C(C(=C1C)OC)C)[O-] | C9H13NO2
